US09079902B2
A round-bottom flask was charged with N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine (851 mg, 3.39 mmol) and THF (10 mL) to give a clear, light yellow solution. The flask was cooled in a dry ice and acetone bath for 10 min, then lithium bis(trimethylsilyl)amide (1M in THF) (3387 μl, 3.39 mmol) was added dropwise over 1 minute to give a suspension. The flask was removed from the cooling bath for 10 min, then re-cooled for 5 min. A solution of 4-fluoro-3-nitrobenzene-1-sulfonyl chloride (737.72 mg, 3.08 mmol) in THF (3 mL with a 1 mL flask/syringe wash) was added dropwise over 2 min. The mixture was stirred for another 5 min, then the mixture was warmed to room temperature. The reaction mixture was diluted with water and extracted with EtOAc (3×). The combined organic extract was dried over sodium sulfate, filtered and concentrated. The crude product was purified by chromatography on silica gel (0 to 30% EtOAc/heptane) to give N-(2,4-dimethoxybenzyl)-4-fluoro-3-nitro-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide (758 mg, 1.668 mmol, 54.2% yield) as a yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ=8.24 (s, 1 H), 8.18 (dd, J=2.4, 6.7 Hz, 1 H), 7.99 (ddd, J=2.4, 3.9, 8.8 Hz, 1 H), 7.33-7.28 (m, 1 H), 7.09 (d, J=8.4 Hz, 1 H), 6.32 (dd, J=2.3, 8.4 Hz, 1 H), 6.21 (d, J=2.4 Hz, 1 H), 5.37 (s, 2 H), 3.76 (s, 3 H), 3.63 (s, 3 H). m/z (ESI) 477.0 (M+H)+.

reactant | N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine | 3.39 mmol, 851 mg | COC1=C(CNC2=NC=NS2)C=CC(=C1)OC | C11H13N3O2S
reactant | dry ice | C(=O)=O | CO2
reactant | lithium bis(trimethylsilyl)amide | 3.39 mmol, 1M, 3387 μl | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-fluoro-3-nitrobenzene-1-sulfonyl chloride | 3.08 mmol, 737.72 mg | FC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H3ClFNO4S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
product | N-(2,4-dimethoxybenzyl)-4-fluoro-3-nitro-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide | 1.668 mmol, 758 mg, 54.2% yield | COC1=C(CN(S(=O)(=O)C2=CC(=C(C=C2)F)[N+](=O)[O-])C2=NC=NS2)C=CC(=C1)OC | C17H15FN4O6S2
